US04727081
(a) 3-[(3-Methylpiperidin-1-yl)methyl]phenol
24.4 g (0.2 mol) of 3-hydroxybenzaldehyde are mixed with 40 ml (about 0.4 mol) of 3-methylpiperidine and 20 ml (about 0.52 mol) of 100% formic acid with cooling and then stirred for 2 hours at 120° C. When the reaction mixture has cooled to room temperature, it is poured into water and rendered alkaline with ammonia, and the precipitated solid is filtered off and recrystallised from ethanol.

reactant | 3-hydroxybenzaldehyde | 0.2 mol, 24.4 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 3-methylpiperidine | about 0.4 mol, 40 ml | CC1CNCCC1 | C6H13N
reactant | formic acid | about 0.52 mol, 20 ml | C(=O)O | CH2O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 3-[(3-Methylpiperidin-1-yl)methyl]phenol | CC1CN(CCC1)CC=1C=C(C=CC1)O | C13H19NO
